US05130335
C. Tert-butyl 4-hydroxybenzoate
Excess isobutylene gas was condensed at -78° C. in a high-pressure tube containing 13.8 g (0.1 mol) of 4-hydroxybenzoic acid dissolved in 50 ml of dioxane and 1 ml of conc. H2SO4 was then added to the mixture. The tube was then sealed and the reaction mixture warmed to room temperature and stirred for 2 h. The mixture was then cooled to -78° C. and the tube was opened and its contents poured slowly into an excess of saturated NaHCO3 solution. Any excess isobutylene was removed by means of a nitrogen stream and the mixture was extracted with ether. The ether solution was extracted with 1N NaOH solution and the ether layer was discarded. The aqueous extract was acidified with dilute H2SO4 and then extracted with ether. The ether extract was washed with NaHCO3 solution and then dried (Na2SO4). The solution was filtered and the solvent removed in-vacuo. The residue was purified by flash chromatography (silica; 40% ethyl acetate in hexanes) to give the title compound as a white solid.

reactant | isobutylene | CC(C)=C | C4H8
reactant | 4-hydroxybenzoic acid | 0.1 mol, 13.8 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | Tert-butyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H14O3
